US05338755
A) 2',5-Dichloro-2-(3,4-dimethoxyphenylsulfonamido)-benzophenone
5.6 g of 2-amino-2',5-dichlorobenzophenone and 5 g of 3,4-dimethoxyphenylsulfonyl chloride are heated in pyridine overnight at 100° C. The pyridine is evaporated off to dryness, water and ethyl acetate containing a small amount of DCM are added and the mixture is extracted. After washing several times with water and drying over sodium sulfate, the extract is evaporated under vacuum and 7.7 g of the expected product are recrystallized from a DCM/AcOEt mixture.

reactant | 2-amino-2',5-dichlorobenzophenone | 5.6 g | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C13H9Cl2NO
reactant | 3,4-dimethoxyphenylsulfonyl chloride | 5 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2',5-Dichloro-2-(3,4-dimethoxyphenylsulfonamido)-benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)=O | C21H17Cl2NO5S
